US06582351B1
A solution of potassium cyanate (40 mg) in water (1 mL) was added to a mixture of 1-(trans-4-aminocyclohexyl)-3-(3-chloro-4-methoxybenzyl)-5-cyano-2,3-dihydro-1H-benzimidazol-2-one (100 mg) and 1N-hydrochloric acid (0.25 mL) in 1,4-dioxane (1.4 mL). The reaction mixture was stirred at ambient temperature for 20 hours. The mixture was partitioned between ethyl acetate and water. The separated organic layer was washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The resulting residue was triturated with diethyl ether and washed with isopropyl alcohol to give 1-(trans-4-ureidocyclohexyl)-3-(3-chloro-4-methoxybenzyl)-5-cyano-2,3-dihydro-1H-benzimidazol-2-one (71mg) as powders.

reactant | potassium cyanate | 40 mg | [O-]C#N.[K+]
reactant | 1-(trans-4-aminocyclohexyl)-3-(3-chloro-4-methoxybenzyl)-5-cyano-2,3-dihydro-1H-benzimidazol-2-one | 100 mg | N[C@@H]1CC[C@H](CC1)N1C(N(C2=C1C=CC(=C2)C#N)CC2=CC(=C(C=C2)OC)Cl)=O | C22H23ClN4O2
reactant | hydrochloric acid | 0.25 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 1.4 mL | O1CCOCC1 | C4H8O2
product | 1-(trans-4-ureidocyclohexyl)-3-(3-chloro-4-methoxybenzyl)-5-cyano-2,3-dihydro-1H-benzimidazol-2-one | 71mg | N(C(=O)N)[C@@H]1CC[C@H](CC1)N1C(N(C2=C1C=CC(=C2)C#N)CC2=CC(=C(C=C2)OC)Cl)=O | C23H24ClN5O3
